US08304419B2
To a solution of N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide (95 mg, 0.196 mmol), Palladium dichloropistriphenylphosphine (103 mg, 0.196 mmol), 3-methyl-1-butyne (26.7 mg, 0.392 mmol) and copper(I) iodide (1.869 mg, 9.81 μmol) in THF (4 ml) was added TEA (0.141 ml, 1.012 mmol) and the reaction mixture was irradiated in a personal microwave reactor for 10 minutes at 120° C. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(3-methyl-1-butyn-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide (49 mg, 0.104 mmol, 53% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.25 (d, 1H), 7.73 (s, 1H), 7.57 (s, 1H), 7.41-7.50 (m, 2H), 7.32 (t, 1H), 7.11 (s, 1H), 4.49 (d, 2H), 2.76 (dt, 1H), 1.15 (d, 6H). LC-MS (ES+) m/z 471.13, [M+H].

reactant | N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.196 mmol, 95 mg | BrC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1)Cl)F | C18H10BrCl2FN4O2
reactant | 3-methyl-1-butyne | 0.392 mmol, 26.7 mg | CC(C#C)C | C5H8
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | Palladium | [Pd] | Pd
catalyst | copper(I) iodide | 9.81 μmol, 1.869 mg | [Cu]I
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(3-methyl-1-butyn-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide | 0.104 mmol, 49 mg, 53% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#CC(C)C)C#N)F | C23H17Cl2FN4O2
